US06974802B2
b) 4-methoxybenzyl 4-(2-N-benzyloxycarbonyl-L-valyloxyethoxy)benzoate.
To a solution of 4-methoxybenzyl 4-(2-hydroxyethoxy)benzoate (6.6 g, 21.8 mmole), 4-dimethylaminopyridine (0.61 g, 5 mmole) and N-benzyloxycarbonyl-L-valine (6.3 g, 25 mmole) in dichloromethane (80 ml) was added dicyclohexyl-carbodiimide (5.2 g, 25 mmole) and the mixture was stirred overnight at room temperature. The mixture was cooled and the urethane was filtered. The solution was evaporated and ethyl acetate (200 ml) was added. The organic phase was washed twice with 5% acetic acid, 5% sodium hydrogencarbonate and water. The organic phase was dried with sodium sulfate and evaporated under reduced pressure. The product was isolated by silica gel column chromatography with dichloromethane/methanol. Yield: 10.6 g=90%

reactant | 4-methoxybenzyl 4-(2-hydroxyethoxy)benzoate | 21.8 mmole, 6.6 g | OCCOC1=CC=C(C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C17H18O5
reactant | N-benzyloxycarbonyl-L-valine | 25 mmole, 6.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | dicyclohexyl-carbodiimide | 25 mmole, 5.2 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 5 mmole, 0.61 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 4-methoxybenzyl 4-(2-N-benzyloxycarbonyl-L-valyloxyethoxy)benzoate | C(C1=CC=CC=C1)OC(=O)N[C@@H](C(C)C)C(=O)OCCOC1=CC=C(C(=O)OCC2=CC=C(C=C2)OC)C=C1 | C30H33NO8
